US06087364
A solution of 2,3-dihydro-3-oxo-1H-isoindole-1-acetic acid (Rowe F. M., et al., J. Chem. Soc., 1098, 1936) (20 g, 104.6 mmol) in 100 mL of DMF is added to a suspension of NaH (2.5 g, 104.6 mmol) in 200 mL of DMF at room temperature under argon. Some cooling is required during the addition to keep the mixture at room temperature. The mixture is stirred at room temperature for 30 minutes. Methyl iodide (14.8 g, 104.6 mmol) is added, and the mixture is stirred at room temperature overnight. The reaction is quenched by addition of 5 mL of acetic acid, and the DMF is evaporated. Residual DMF is removed by heating the wet solid in a steam bath under high vacuum. The dried solid is stirred into 300 mL of CH2Cl2 for 1 hour. The solid is removed by filtration, and the filtrate is evaporated to give 12 g (56% yield) of 2,3-dihydro-3-oxo-1H-isoindole-1-acetic acid methyl ester.

reactant | 2,3-dihydro-3-oxo-1H-isoindole-1-acetic acid | 104.6 mmol, 20 g | O=C1NC(C2=CC=CC=C12)CC(=O)O | C10H9NO3
reactant | NaH | 104.6 mmol, 2.5 g | [H-].[Na+]
reactant | Methyl iodide | 104.6 mmol, 14.8 g | CI | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2,3-dihydro-3-oxo-1H-isoindole-1-acetic acid methyl ester | 12 g, 56% yield | COC(CC1NC(C2=CC=CC=C12)=O)=O | C11H11NO3
